US04273704
To a solution of 16.88 g of Boc-L-tyrosine in 50 ml of dry dimethylformamide is added 6.65 ml of N-methylmorpholine. The reaction mixture is cooled to -40° C. and 7.84 ml of isobutylchloroformate is added. The reaction mixture is allowed to warm to 0° C. over a 15 minute period then 13.32 g of methyl D-methionyl-glycinate hydrochloride dissolved in 50 ml of dimethylformamide is added followed immediately by 5.2 ml of N-methylmorpholine. The reaction mixture is stirred for 30 minutes at 0° C. After storage overnight at 5° C., 3 ml of N,N-dimethylethylenediamine is added and the reaction mixture is stirred for 15 minutes at room temperature. The solvent is removed under vacuum at 35° C. and 1 mm of pressure and oily residue is dissolved in a mixture of 100 ml of water and 700 ml of ethyl acetate. The ethyl acetate layer is separated and washed three times with 80 ml of a 0.5 M solution of potassium bisulfate, 2 times with 80 ml of water, 2 times with 80 ml of a 0.5 solution of potassium carbonate, and 3 times with 100 ml of a 10% solution of sodium sulfate then dried over magnesium sulfate. The solvent is removed under pressure. The residue is dissolved in 1.2 liters of 5% ethyl acetate in chloroform and purified by low pressure chromatography on silica gel then reduced to dryness under reduced pressure and recrystallized from ethyl acetate to give methyl Boc-L-tyrosyl-D-methionyl-glycinate which is represented by the following formula

reactant | Boc-L-tyrosine | 16.88 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)O)C(=O)O | C14H19NO5
reactant | N-methylmorpholine | 6.65 ml | CN1CCOCC1 | C5H11NO
reactant | isobutylchloroformate | 7.84 ml | C(C(C)C)OC(=O)Cl | C5H9ClO2
reactant | methyl D-methionyl-glycinate hydrochloride | 13.32 g | Cl.N[C@H](CCSC)C(=O)NCC(=O)OC
reactant | N-methylmorpholine | 5.2 ml | CN1CCOCC1 | C5H11NO
reactant | N,N-dimethylethylenediamine | 3 ml | CN(CCN)C | C4H12N2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | methyl Boc-L-tyrosyl-D-methionyl-glycinate | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](CCSC)C(=O)NCC(=O)OC | C22H33N3O7S
